US06982348B2
4-fluoro-N-((1S,2R)-2-hydroxy-2-(4-pyridyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (70 mg, 0.24 mmol) in acetonitrile (5 ml) were added 4-fluoronaphthalenecarboxylic acid (45 mg, 0.24 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (68 mg, 0.35 mmol) and 1-hydroxy-1H-benzotriazole (36 mg, 0.24 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from ethyl acetate-diisopropyl ether to give the title compound (55 mg, 50%).

reactant | (1RS,2SR)-2-amino-1-(4-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.24 mmol, 70 mg | NC(C(O)C1=CC=NC=C1)CC1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O
reactant | 4-fluoronaphthalenecarboxylic acid | 0.24 mmol, 45 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.35 mmol, 68 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.24 mmol, 36 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-((1S,2R)-2-hydroxy-2-(4-pyridyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 55 mg, 50% | FC1=CC=C(C2=CC=CC=C12)C(=O)N[C@H]([C@@H](C1=CC=NC=C1)O)CC1=CC=C(C=C1)C(F)(F)F | C26H20F4N2O2
